US07399775B2
3-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-4-hydroxychromen-2-one
At room temperature, glacial acetic acid (60 mg, 1 mmol) and pyridine (80.5 μl, 1 mmol) were added to an ethanol (4 ml) solution of 2,5-difluorobenzaldehyde (109 μl, 1 mmol), 4-hydroxycoumarin (162 mg, 1 mmol) and 4-chlorothiophenol (144.6 mg, 1 mmol) and the mixture was stirred for 24 hours. The precipitate thus formed was collected by filtration and washed with a small amount of ethanol, whereby the title compound (345 mg, 80%) was obtained as a white solid.

reactant | acetic acid | 1 mmol, 60 mg | C(C)(=O)O | C2H4O2
reactant | pyridine | 1 mmol, 80.5 μl | N1=CC=CC=C1 | C5H5N
reactant | 2,5-difluorobenzaldehyde | 1 mmol, 109 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | 4-hydroxycoumarin | 1 mmol, 162 mg | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 4-chlorothiophenol | 1 mmol, 144.6 mg | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-4-hydroxychromen-2-one | ClC1=CC=C(C=C1)SC(C=1C(OC2=CC=CC=C2C1O)=O)C1=C(C=CC(=C1)F)F | C22H13ClF2O3S
